datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC12C3(C)C4(C)C5(C)C1(C)[W-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CC12C3(C)C4(C)C5(C)C1(C)[W-2:11]2345(C#[O+])(C#[O+])C#[O+].CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].C1C[CH:10]=[CH:11]C1>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([CH:10]1CCC[CH+:11]1)[C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)=[C:22]2[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CSC[C:20](C)=[O:21].Cl[C:63]1=[CH:64][CH:83]=[CH:82][N+:61]([CH-:10][C:71](C2=CC=CC=C2)=[O:72])=[CH:62]1>>CSC[C:20](C)([CH:10]([N+:61]1=[CH:62][C:63](Cl)=[CH:64][CH:83]=[CH:82]1)[C:71](C1=CC=CC=C1)=[O:72])[O-:21] 10=20;20,21=21"
"C1=CC=C([C:61]([O-:10])=[O:62])C=C1.C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[N:33](C)[C:22](=[CH:21][CH2:20][O:10][C:61](C1=CC=CC=C1)=[O:62])[O-:23] 10=20;20,21=21,22;22,23=23"
"[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1.[H:10][CH:11]1[CH:12]=[CH:13][CH2:64][CH:63]=[CH:62]1>>[CH:11]1=[CH:12][CH+:13][CH2:64][CH:63]=[CH:62]1.[H:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20"
"CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CC(C)(C)[P+:10](C1=CC=CC=C1)(C(C)(C)C)[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10=20;20,21=21"
"CC(C)(C)[N:62]1CC[N:72](C(C)(C)C)[P:11]1[H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CC(C)(C)[N:62]1CC[N:72](C(C)(C)C)[P+:11]1.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>C[C:71]1=[N:72][CH:62]=[CH:61][N:10]1[CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1 10=20;20,21=21"
"CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1.COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=C(OC)C=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=C(OC)C=C3)=C1 10=20;20,21=21,22;22,23=23"
"CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25].C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([C:10](C)([C:11]#[N:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1)[C:31](=[O:32])[N:33](C)C)[O-:25] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.CC[O:62]/[C:11](=[CH:10]/[S:71](C1=CC=CC=C1)=[O:72])[O-:12]>>CC[O:62][C:11]([CH:10]([CH2:20][C:21]1=[C:22]([O-:23])[O:33]CCC1)[S:71](C1=CC=CC=C1)=[O:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C[C:11]([O-:12])=[CH:10][C:61](=[O:62])C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1[C:11](=[O:12])CC(C)(C)C[C:61]1=[O:62])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CN1CC[N:14]2CCN(C)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23>>CN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]1CC[C:22]([O-:23])=[CH:21]1)[CH:61]=[C:62]3N(C)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
